Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Clindamycin
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ h/o asthma vs. copd, h/o past stroke, HTN hospitalized with 
one day of rapid onset shortness of breath in the context of one 
week of increased dry cough and generally poor breathing for the 
past two weeks.  She has not had fevers, purulent sputum, chest 
pain, rhinorrhea, headache or nasal congestion.  Last night 
began gasping for breath and did not have sufficient improvement 
with use of nebulizers and then went to the ED.  She was on 
BIPAp for 3 hours and received Mg, IV solumedrol and nebs and 
did not have significant hypoxemia or acute respiratory 
acidosis.  She improved to the point were bipap was discontinued 
and arrived to the floor feeling significantly better than last 
night.  She also received iv ceftriaxone and azithromycin for 
possible pneumonia as she had WBC 18 and a portable CXR that 
showed Subtly increased opacity at the base of the right lung.  

She has chronic arthritis related pain in hips and knees, but 
denies other new acute pain.   No recent sick contacts or 
hospital admission or travel.  13pt ROS is otherwise described 
above
 
Past Medical History:
2 strokes (R MCA in ___ likely embolic, and L subcortical ___ 
likely small vessel)
HTN
High chol
DM-II, controlled off metformin now
Emphysema vs. asthma
___ aneurysm s/p repair ___ yrs ago per pt

Stress incontinence
Hydronephrosis secondary to stones
S/p oophorectomy for ovarian cancer

**CT chest from ___ showed  
1. 2 mm right upper lobe nodule. Given the patient's risk 
factors, per 
___ guidelines, recommend followup in ___ year. 
2. Severe centrilobular apical predominant emphysema. 

 
Social History:
___
Family History:
Mother deceased with lung ca, father with "heart disease". 
Multiple aunts with DM.

 
Physical Exam:
98 126/76 89 18 100% 2L
does not appear unstable or in resp distress
lying on side with oxygen tubing not in her nose
she can speakin in full sentences and no observed accessory 
muscle use
very diminished breath sounds, only w forced exp do I hear exp 
wheeze, loudest in LUL
regular s1 and s2, no audible murmurs, also distant and quite
soft abdomen, no hepatomegaly
no peripheral edema
moves all extremities, did not test gait
calm, not confused, fluent speech, facial features symmetric

normotensive HR 76 100% RA
appears well
not coughing
not using accessory muccles
substantial improvement with louder and clearer breath sounds, a 
few scattered wheezes
 
Pertinent Results:
___ 01:55AM BLOOD WBC-18.5*# RBC-4.41 Hgb-13.1 Hct-42.8 
MCV-97 MCH-29.7 MCHC-30.6* RDW-12.3 RDWSD-43.6 Plt ___
___ 01:55AM BLOOD Glucose-154* UreaN-15 Creat-1.1 Na-140 
K-4.1 Cl-109* HCO3-19* AnGap-16
___ 01:55AM BLOOD Neuts-83.5* Lymphs-9.7* Monos-5.6 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-15.45* AbsLymp-1.80 
AbsMono-1.03* AbsEos-0.08 AbsBaso-0.05
___ 02:30AM BLOOD ___ pO2-38* pCO2-45 pH-7.30* 
calTCO2-23 Base XS--4
___ 02:29AM BLOOD Lactate-2.1*
___ 02:30AM BLOOD O2 Sat-67

cxr: subtle RLL infiltrate
___ 07:00AM BLOOD WBC-13.0* RBC-3.94 Hgb-11.8 Hct-37.6 
MCV-95 MCH-29.9 MCHC-31.4* RDW-12.1 RDWSD-42.4 Plt ___
___ 07:00AM BLOOD Glucose-116* UreaN-19 Creat-0.9 Na-142 
K-4.2 Cl-111* HCO3-21* AnGap-14

FINDINGS:  
  
The thyroid is normal. Supraclavicular, axillary, mediastinal 
and hilar lymph 
nodes are not enlarged. Aorta and pulmonary arteries are normal 
size. Cardiac 
configuration is normal and there is no appreciable coronary 
calcification.  
There is no pleural or pericardial effusion.  Respiratory motion 
limits the 
evaluation of the lungs worse in the lower lobes bilaterally.  
Moderate to 
severe upper lobe predominant centrilobular emphysema is 
unchanged.  Sub 
pleural micro nodule left lower lobe (5:255), micronodule left 
lower lobe 
(5:244), lingular atelectasis and or scarring, atelectasis or 
scarring in the 
right middle lobe with a calcified granuloma are unchanged.  
There are no new 
lung nodules.  Previously described nodule in the right upper 
lobe is not 
clearly visualized in this exam 
This examination is not tailored for subdiaphragmatic 
evaluation.  A catheter 
projecting in the upper abdomen runs from the thecal sac to the 
peritoneum, is 
incompletely imaged.  Enlarged left kidney with severe 
hydronephrosis and 
thinning of the left renal cortex is again noted incompletely 
imaged.  
Multiple stones are seen in the right kidney as before. 
There are no bone findings of malignancy.  Spinal hardware is 
present in the 
posterior cervical spine. 
  
IMPRESSION:  
  
No evidence of pneumonia, opacity described in the right lower 
hemi thorax 
correspond to chronic right middle lobe atelectasis and/or scar 
Stable less than 4 mm lung nodules,  scarring or atelectasis in 
the right 
middle lobe and lingula and resolution of previously described 
right upper 
lobe lung nodule.  No further followup is recommended 
Centrilobular emphysema. 
  
___, MD electronically signed on ___ ___ 
4:19 ___ 
 

  Imaging Lab 
 

 
Brief Hospital Course:
___ gold stage II COPD w acute exacerbation of COPD.  Although 
she has leukocytosis, less convincing evidence for acute 
bacterial pneumonia clinically.
She is due for ___ year f/u CT chest to track an incidental 2mm 
pulmonary nodule, I obtained CT chest that showed resolution of 
this lesion/nodule and no need for further imaging follow up.  
She also did not have pneumonia on CXR.

She received standard care for AECOPD and improved clinically 
without substantial dyspnea, wheezing and no hypoxemia.  On 
discharge she will take prednisone 40mg for 1 week, complete a 
course of azithromycin and continue ___ steroid, 
Spiriva and use PRN bronchodilators.  We discussed smoking 
cessation.

HTN: stable: continue amlodipine and valsartan
h/o stroke and ___ aneurysm repair: atorvastatin, aspirin 325 
and Aggrenox

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. AcetaZOLamide 250 mg PO Q6H 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
3. Amlodipine 5 mg PO DAILY 
4. Aspirin (Buffered) 325 mg PO DAILY 
5. Dipyridamole-Aspirin 1 CAP PO BID 
6. Valsartan 320 mg PO DAILY 
7. ammonium lactate 12 % topical BID 
8. Lactulose 15 mL PO DAILY:PRN constipation 
9. potassium citrate 10 mEq ORAL DAILY 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
11. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
12. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN sob 
13. Atorvastatin 10 mg PO QPM 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Nicotine Patch 21 mg TD DAILY 

 
Discharge Medications:
1. AcetaZOLamide 250 mg PO Q6H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
3. Amlodipine 5 mg PO DAILY 
4. Aspirin (Buffered) 325 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Dipyridamole-Aspirin 1 CAP PO BID 
7. Nicotine Patch 21 mg TD DAILY 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Valsartan 320 mg PO DAILY 
10. Azithromycin 250 mg PO Q24H Duration: 5 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
11. PredniSONE 40 mg PO DAILY Duration: 7 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0
12. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
13. ammonium lactate 12 % topical BID 
14. Lactulose 15 mL PO DAILY:PRN constipation 
15. potassium citrate 10 mEq ORAL DAILY 
16. ProAir HFA (albuterol sulfate) 90 mcg/actuation INHALATION 
Q4H:PRN sob 
17. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute copd exacerbation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for treatment of actue exacerbation of 
your copd

take antibiotics and steroids as prescribed

do not smoke
 
Followup Instructions:
___